US06515130B1
Dry palladium on charcoal (0.54 g, manufactured by Degussa, 5% Pd/C) was added to a solution of methyl 3-Amino-3-(3-pyridyl)-2-propenoate (5.4 g, 30 mmol) in dry acetic acid (13 g) in a 450 ml Pyrex high-pressure bottle. The reaction mixture was hydrogenated at 3-3.2 bar. After 1.5-2 h, the catalyst was filtered and washed with 20 g of isopropyl alcohol until the wash solvent was no longer yellow. Gaseous HCl (10.6 g, 0.3 mol) was bubbled through the stirred filtrate at 5-15° C. The suspension was cooled to 0-5° C. and stirred for two hours. The resulting white precipitate was filtered, washed with 5 g of isopropyl alcohol, and dried at 45° C. to yield 5.95 g (78.4%,) of methyl 3-Amino-3-(3-pyridyl)propanoate dihydrochloride.

reactant | methyl 3-Amino-3-(3-pyridyl)-2-propenoate | 30 mmol, 5.4 g | NC(=CC(=O)OC)C=1C=NC=CC1 | C9H10N2O2
reactant | HCl | 0.3 mol, 10.6 g | Cl | ClH
catalyst | palladium on charcoal | 0.54 g | [Pd] | Pd
solvent | acetic acid | 13 g | C(C)(=O)O | C2H4O2
product | methyl 3-Amino-3-(3-pyridyl)propanoate dihydrochloride | 5.95 g, 78.4% | Cl.Cl.NC(CC(=O)OC)C=1C=NC=CC1 | InChI=1S/C9H12N2O2.2ClH/c1-13-9(12)5-8(10)7-3-2-4-11-6-7;;/h2-4,6,8H,5,10H2,1H3;2*1H
